US06046201
12-Iodododecylamine hydroiodide
An aqueous solution of 100 mg of 12-aminododecanol in 57% hydriodic acid was heated under reflux for one hour. To the reaction solution was added chloroform and the mixture was washed successively with water, a 10% aqueous solution of sodium thiosulfate and a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue thus obtained was chromatographed over a silica gel column to afford 171 mg of the title compound.

reactant | 12-aminododecanol | 100 mg | NCCCCCCCCCCCCO | C12H27NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydriodic acid | I | HI
product | 12-Iodododecylamine hydroiodide | 171 mg | I.ICCCCCCCCCCCCN | InChI=1S/C12H26IN.HI/c13-11-9-7-5-3-1-2-4-6-8-10-12-14;/h1-12,14H2;1H
